US08426447B2
A vial was charged with (S)-2′-amino-3-(tetrahydro-2H-pyran-4-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate (70.0 mg, 0.144 mmol), 5-chloro-2-fluorophenylboronic acid (75 mg, 0.433 mmol), potassium carbonate (100 mg, 0.721 mmol), and Pd(PPh3)4 (8.33 mg, 7.21 μmol). The vial was flushed with Ar (g), then Dioxane (721 μL) and water (0.3 mL) were added in sequence. The vial was sealed and placed in an 80° C. for 1.5 hours. The mixture was diluted with brine (20 mL) and extracted with EtOAc (2×15 mL). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue was chromatographed on a 24-g Redi-Sep Gold column with 0-60% of a 90:10:1 mix of DCM/MeOH/NH4OH in DCM to give (S)-7-(5-chloro-2-fluorophenyl)-3-(tetrahydro-2H-pyran-4-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine.

reactant | (S)-2′-amino-3-(tetrahydro-2H-pyran-4-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate | 0.144 mmol, 70.0 mg | FC(S(=O)(=O)OC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)C1CCOCC1)(F)F | C20H18F3N3O6S
reactant | 5-chloro-2-fluorophenylboronic acid | 0.433 mmol, 75 mg | ClC=1C=CC(=C(C1)B(O)O)F | C6H5BClFO2
reactant | potassium carbonate | 0.721 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 7.21 μmol, 8.33 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-7-(5-chloro-2-fluorophenyl)-3-(tetrahydro-2H-pyran-4-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | ClC=1C=CC(=C(C1)C=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)C1CCOCC1)F | C25H21ClFN3O3
